US06635657B1
A. 4-Chloro-N-(5-chloropyridin-2-yl)-2-nitrobenzamide
To a stirring suspension of 4-chloro-2-nitrobenzoic acid (20 g, 99 mmol) in dichloromethane (500 mL) was added a few drops of DMF, followed by oxalyl chloride (15.1 g, 119 mmol). After 1 h, the solvent was removed in vacuo and the residue was dissolved in dichloromethane (500 mL). To this stirring solution was added pyridine (24 mL, 297 mmol) followed by 2-amino-5-chloropyridine (12.7 g, 99 mmol). After stirring overnight, the solvents were removed in vacuo and the residue was stirred vigorously with ethyl acetate and water for several hours. The mixture was filtered to give a white solid, which was washed with ethyl acetate and dried in vacuo to give 23 g (74%) of the title compound. The combined ethyl acetate washings and extract were then washed twice with 1 M citric acid, once with brine, twice with saturated aq sodium bicarbonate, and again with brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo. The solid was then suspended in diethyl ether, sonicated and filtered to give a second crop of the title compound as a white solid (5.79 g, 19%).

reactant | 4-chloro-2-nitrobenzoic acid | 99 mmol, 20 g | ClC1=CC(=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | oxalyl chloride | 119 mmol, 15.1 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | pyridine | 297 mmol, 24 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-amino-5-chloropyridine | 99 mmol, 12.7 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
product | 4-Chloro-N-(5-chloropyridin-2-yl)-2-nitrobenzamide | 23 g, 74% | ClC1=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C=C1)[N+](=O)[O-] | C12H7Cl2N3O3
